US06841183B2
Synthesis of 7-hydroxy-2-methoxychroman
A 500-milliliter flask fitted with a dropping funnel was charged with 11.0 g of resorcinol, 0.2 g of p-toluenesulfonic acid monohydrate and 100 ml of diethyl ether for dissolution, and the mixture was cooled with ice. To this solution was slowly added dropwise 13.0 ml of acrolein dimethyl acetal under room temperature. After the dropwise addition, the mixture was stirred for 4 hours while being cooled with ice. To this was added 30 ml of water, the solution was weakly alkalized with a 5% sodium hydroxide aqueous solution, and the organic layer was then washed. After the separation of layers in the solution, the aqueous layer was extracted three times with 50 ml of diethyl ether, and thus obtained ether layers were combined with the previous organic layer. The combined layer was washed with 50 ml of water, and diethyl ether was then removed by distillation in vacuo therefrom. The resulting residue was purified by distillation to obtain 7.7 g of a colorless liquid (yield 43%).

reactant | resorcinol | 11.0 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | acrolein dimethyl acetal | 13.0 ml | COC(C=C)OC | C5H10O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 7-hydroxy-2-methoxychroman | 7.7 g, yield 43% | OC1=CC=C2CCC(OC2=C1)OC | C10H12O3
